data/pmechdb/original/mc_train_fold0/raw/train.txt
C[C:20](=[O:21])OC(=O)C=C.[C-:10]#N>>C[C:20]([C:10]#N)([O-:21])OC(=O)C=C 10=20;20,21=21
CC(C=O)C(CCC(=O)OC)[C:20]1([OH+:21]CC[O:10]1)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O>>CC(C=O)C(CCC(=O)OC)[C:20](=[O+:10]CC[OH:21])C.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1.O 10=20;20,21=21
C[N-:10][CH+:20]SC>>C[N:10]=[CH:20]SC 10=20,
[CH:20]([NH3+:21])([NH2:10])O.[C-]#N.N>>[CH:20](=[NH2+:10])O.[NH3:21].[C-]#N.N 10=20;20,21=21
[H:20][OH+:21]C1=NC2=CC=CC=C2C(C1)CC.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CCC1CC(=NC2=CC=CC=C12)[OH:21] 10=20;20,21=21
[CH3:10][Mg:11]Br.C[Mg-]([P+:20](Cl)(Cl)Cl)Br>>C[Mg-]([P:20]([CH3:10])(Cl)(Cl)Cl)Br.[Mg+:11]Br 10,11=10,20
[H:20][C:21]1(CCCC([C:22]1=[OH+:23])(CC=C(C)O)C(=O)OC)Br.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC(=CCC1(CCC[C:21](=[C:22]1[OH:23])Br)C(=O)OC)O 10=20;22,23=23;20,21=21,22
C[CH+:20]C.C1=CC2=C(C=C1)[CH:10]=[C:11](C=C2)Br>>C[CH:20](C)[CH:10]1C2=C(C=CC=C2)C=C[C+:11]1Br 10,11=10,20
C1=NC=NC(=C1Br)CC[CH:20]=[O+:21]CCCO.[OH2:10].C(=O)[O-]>>C1=NC=NC(=C1Br)CC[CH:20]([OH2+:10])[O:21]CCCO.C(=O)[O-] 10=20;20,21=21
[B-:10]([O+](C)C1=CC(=CC=C1)CCC)(Br)(Br)[Br:11]>>[B:10]([O+](C)C1=CC(=CC=C1)CCC)(Br)Br.[Br-:11] 10,11=11
C[S:10]C.[Cl:20][Cl:21]>>C[S+:10](C)[Cl:20].[Cl-:21] 10=20;20,21=21
CC1CCC2C([CH:20]=[O+:21]C3C24C1CCC(O3)(OO4)C)C.C[Si](C)(C)C[C:11]#[CH:10].C1=CC=C(C=C1)C(=O)O[Zn-](Cl)Cl>>CC1CCC2C([CH:20]([O:21]C3C24C1CCC(O3)(OO4)C)[CH:10]=[C+:11]C[Si](C)(C)C)C.C1=CC=C(C=C1)C(=O)O[Zn-](Cl)Cl 10,11=10,20;20,21=21
[H:20][CH:21]1[C:22](=[OH+:23])C(CC2C13CCN(C2CC4=C3C(=C(C=C4)OC)O)CC)OC.CC[N:10]1CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC.CS(=O)(=O)[O-]>>[H:20][N+:10]1(CCC23CC(=O)C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)CC.CCN1CCC23[CH:21]=[C:22](C(CC2C1CC4=C3C(=C(C=C4)OC)O)OC)[OH:23].CS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[CH-:10]C#N.[Br:20][Br:21]>>C[CH:10](C#N)[Br:20].[Br-:21] 10=20;20,21=21
[H:20][S+:21](CC)C(C=C)([O-])OC(=O)C.[OH2:10]>>[H:20][OH2+:10].CC[S:21]C(C=C)([O-])OC(=O)C 10=20;20,21=21
C[C:20](=[OH+:21])OC(=O)C.[OH2:10]>>CC(=O)O[C:20](C)([OH2+:10])[OH:21] 10=20;20,21=21
[NH3:10].[CuH2:20]>>[NH3+:10][CuH2-:20] 10=20,
C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C1=CC(=CC=C1OCCO)OCC[O-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:20](C2=CC=CC=C2)(C3=CC=CC=C3)([O:10]CCOC4=CC=C(C=C4)OCCO)Br.C(Br)(Br)Br 10=20,
CC(C)CC(C(=O)NCC(=O)NC(C)C(=O)O)[NH2+:21][C:20](=O)[O-:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CC(C)CC(C(=O)NCC(=O)NC(C)C(=O)O)[NH2:21].[C:20](=O)=[O:10].C[C+](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10=20;20,21=21
CC[Al-](OC12CCCC(C1)[C+:20](C2)[CH2:10][Si-:11](C)(C)(C)Cl)(Cl)Cl>>CC[Al-](OC12CCCC(C1)[C:20](=[CH2:10])C2)(Cl)Cl.C[Si:11](C)(C)Cl 10,11=10,20
C[C:11](=[C:10]1CCC[C:20]1(C)[OH:21])[O-:12]>>C[C:20]1=[C:10](CCC1)[C:11](=[O:12])C.[OH-:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]C(=O)C1=CC=CC(=C1)Cl.C[Si](C)(C)C1CCC2C1[O:10]2>>[H:20][O+:10]1C2C1C(CC2)[Si](C)(C)C.C1=CC(=CC(=C1)C(=O)[O-:21])Cl 10=20;20,21=21
[H:20][OH2+:21].CC[N:10](CC)C(C=C)(O)O>>[H:20][N+:10](CC)(CC)C(C=C)(O)O.[OH2:21] 10=20;20,21=21
C1=CC2=C(C=C1)C(=O)C3=C(C2=O)C=CC(=C3N[C:20](C4=CC=CO4)([O-:10])[Cl:21])NC(=O)CCl.C1CCOC1.C1=CC=[NH+]C=C1>>C1=CC2=C(C=C1)C(=O)C3=C(C2=O)C=CC(=C3N[C:20](=[O:10])C4=CC=CO4)NC(=O)CCl.[Cl-:21].C1CCOC1.C1=CC=[NH+]C=C1 10=20;20,21=21
CC[N:10](C)C.[CH3:20][I:21]>>CC[N+:10](C)(C)[CH3:20].[I-:21] 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)S(=O)(=O)O.[N+:20](=O)=[O:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[N+:20](=O)[O-:21])S(=O)(=O)O 10,11=10,20;20,21=21
[B-]([O+:21]=[C:20]1CCC[C+](CC(=C)[CH-:10]1)C(C)(C)C)(Cl)(Cl)Cl>>[B-]([O:21][C:20]1=[CH:10]C(=C)C[C+](CCC1)C(C)(C)C)(Cl)(Cl)Cl 10=20;20,21=21
[H:20][CH:21](C)[C:22](=[O:23])CC.[OH-:10]>>[H:20][OH:10].CC[C:22](=[CH:21]C)[O-:23] 10=20;22,23=23;20,21=21,22
[Li+:20].CC[Si](CC)(CC)[C-:10]1SCCCS1.CC(C)C>>[Li:20][C:10]1(SCCCS1)[Si](CC)(CC)CC.CC(C)C 10=20,
[H:20][S+:21](CC)CC=C=N.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC[S:21]CC=C=N 10=20;20,21=21
CO[P:10](OC)OC.[CH3:20][Br:21]>>CO[P+:10]([CH3:20])(OC)OC.[Br-:21] 10=20;20,21=21
CCCC1C(C(C(C(C1C(C)CC)[S-:10])C)CC)CC.C[N+:21]1(C[CH2:20]1)CCCl.[Cl-]>>CCCC1C(C(C(C(C1C(C)CC)[S:10][CH2:20]C[N:21](C)CCCl)C)CC)CC.[Cl-] 10=20;20,21=21
CC1=N[C:11](=[C:10](C(=N1)O)[N+](=O)[O-])[OH:12].[N+:20](=O)=[O:21].O.OS(=O)(=O)[O-]>>CC1=N[C:11](=[OH+:12])[C:10](C(=N1)O)([N+:20](=O)[O-:21])[N+](=O)[O-].O.OS(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[CH+:20][C:11]1(CCCC1)[CH3:10]>>C[CH:20]([CH3:10])[C+:11]1CCCC1 10,11=10,20
CCC(C)[O-:10].[P:20](Br)(Br)[Br:21]>>CCC(C)[O:10][P:20](Br)Br.[Br-:21] 10=20;20,21=21
CCOP(=O)(C(C)C(=O)CC1CCC[C:20]1=[O+:21]CCO)OCC.[OH2:10].CCO.[Cl-]>>CCOP(=O)(C(C)C(=O)CC1CCC[C:20]1([OH2+:10])[O:21]CCO)OCC.CCO.[Cl-] 10=20;20,21=21
[H:20][C:21]1(CCCC[C+:22]1C)C.CC[OH:10]>>C[C:21]1=[C:22](CCCC1)C.[H:20][OH+:10]CC 10=20;20,21=21,22
[H:20][NH2+:21]C(CC1=CC=CC=C1)C(=O)NC2=C(C=CC=C2)C(=O)C.CC[N:10](CC)CC>>[H:20][N+:10](CC)(CC)CC.CC(=O)C1=C(C=CC=C1)NC(=O)C(CC2=CC=CC=C2)[NH2:21] 10=20;20,21=21
